US07560558B2
2-(Hydroxy-phenyl-methyl)-6-methyl-pyridin-3-ol (553 mg) was dissolved in methanol (3 ml) and dichloromethane (9 ml) to prepare a solution. Manganese dioxide (2.05 g) was added to the solution, and the mixture was stirred at room temperature overnight. The reaction solution was filtered through Celite and was then washed with chloroform and methanol. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give (3-hydroxy-6-methyl-pyridin-2-yl)-phenyl-methanone (439 mg, yield 80%).

reactant | 2-(Hydroxy-phenyl-methyl)-6-methyl-pyridin-3-ol | 553 mg | OC(C1=NC(=CC=C1O)C)C1=CC=CC=C1 | C13H13NO2
reactant | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
catalyst | Manganese dioxide | 2.05 g | [O-2].[O-2].[Mn+4]
product | (3-hydroxy-6-methyl-pyridin-2-yl)-phenyl-methanone | 439 mg, yield 80% | OC=1C(=NC(=CC1)C)C(=O)C1=CC=CC=C1 | C13H11NO2
